US07465815B2
N-(3-Hydroxy-7-(4-isopropylbenzyl)-2,2,4,6-tetramethyl-2,3-dihydro-1-benzofuran-5-yl)-3,3-dimethylbutanamide
Using N-(7-(4-isopropylbenzyl)-2,2,4,6-tetramethyl-3-oxo-2,3-dihydro-1-benzofuran-5-yl)-3,3-dimethylbutanamide obtained in Reference Example 330, the title compound was synthesized in the same manner as in Example 234. Yield: 81%. Melting point: 244-245° C. (THF-hexane).

reactant | N-(7-(4-isopropylbenzyl)-2,2,4,6-tetramethyl-3-oxo-2,3-dihydro-1-benzofuran-5-yl)-3,3-dimethylbutanamide | C(C)(C)C1=CC=C(CC2=C(C(=C(C=3C(C(OC32)(C)C)=O)C)NC(CC(C)(C)C)=O)C)C=C1 | C28H37NO3
solvent | THF hexane | C1CCOC1.CCCCCC
product | N-(3-Hydroxy-7-(4-isopropylbenzyl)-2,2,4,6-tetramethyl-2,3-dihydro-1-benzofuran-5-yl)-3,3-dimethylbutanamide | Yield: 81% | OC1C(OC2=C1C(=C(C(=C2CC2=CC=C(C=C2)C(C)C)C)NC(CC(C)(C)C)=O)C)(C)C | C28H39NO3
